reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][C:3]([C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C-:3][H:10])([H:7])([H:8])[H:9].[C:4](=[O:5])([N:6]([H:12])[H:13])[H:11],89.0360701900416
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@@:4]2([H:13])[C:5]([H:14])([H:15])[C@:6]1([H:16])[C:7]2([H:8])[H:17])[H:9]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17],11.695049174890912
[O:1]1[C@:2]([C:6](=[C:5]=[C:4]([H:9])[H:10])[H:11])([H:7])[N:3]1[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],51.81226147402959
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[C:5]=[N:6][H:8].[N:1](=[C:2](/[C:3]([O:4][H:12])([H:10])[H:11])[H:9])\[H:7],57.7950145045224
[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10].[C:4]([O:5][H:16])[H:15],84.4576958250943
[C:1](#[C:2][H:5])[C:3]#[N:4]>>[C:1](#[C-:2])[C+:3]=[N:4][H:5],109.77659121181802
[C:1]([C:2]([O:3][H:11])=[C:4]([H:12])[H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:14]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],42.7595257227097
[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4](=[C:5]([H:12])[H:13])[C:7]#[C:6]1)[H:8],87.44602451946258
[C:1]([H:7])([H:8])([H:9])[H:15].[C:2](\[C:3]([H:11])([H:12])[H:13])(=[C:4](/[C:5](=[O:6])[H:16])[H:14])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],76.450089739172
[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4]#[N:5])=[C:6]=[N:7][H:12])[H:11])([H:8])([H:9])[H:10],78.7776804163175
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:12])=[C:4]([H:13])[H:14])([H:8])([H:9])[H:10].[C:5](=[O:6])=[N:7][H:15].[H:11][H:16],87.06311830265209
[C-:1]([N+:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],17.823814412166797
[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:7](=[C:6])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],57.165221895791795
[O:1]([c:2]1[c:3]([H:9])[o:4][n:6][c:5]1[H:8])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7],64.78233138592849
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:12])[C:4]([H:14])([H:15])[O+:5]=[C:6]1[N:7]([C-:3]([H:11])[H:13])[H:16])([H:8])([H:9])[H:10],108.50429149357299
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[n:2]1[c:3]([O-:4])[n+:5]([H:12])[c:6]([H:13])[n:7]1[H:14],98.74190542753892
[C-:1]([N+:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])([H:8])[H:11])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],16.485934445973797
[C:1](=[O:2])([H:7])[H:9].[C:3](#[O+:4])[C:5](=[C-:6][H:10])[H:8]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9],23.092813424402294
[N:1]([C:2](=[O:3])[N:4]([C-:5]=[N+:6]([H:10])[H:11])[H:9])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8],46.16439536317179
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O+:3]=[C-:4][O:5][H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],76.6568473326163
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C:6]([C@:4]1([O:5][H:12])[C:3]([H:10])([H:11])[C:2]([H:9])=[C:7]1[H:15])([H:13])[H:14])[H:8],87.9190584428739
[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([H:13])([H:14])[H:15])([H:10])[H:12])([H:7])([H:8])[H:9].[O:6]([H:11])[H:16],66.6215392874567
[C-:3]#[O+:4].[C:1](/[C:2](=[C:5](/[O:6][H:12])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],21.450337001010702
[O:1]=[C:2]([C:3]#[N:4])[C:5]#[N:6]>>[O:1]=[C:2]=[C:3]=[N:4][C:5]#[N:6],101.498376205277
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([N+:6]#[C-:5])([H:13])[H:14])([H:7])([H:8])[H:9],44.2859553605155
